US07087594B2
In 4.0 mL of ethyl acetate was dissolved 0.39 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-N,N-dimethyl-3-pyrrolidinamine, and to the solution was added 0.80 mL of a 3.25 mol/L dried hydrogen chloride-ethyl acetate solution. The resulting mixture was stirred at room temperature for 1 hour and then at 5° C. for 1 hour. The crystals precipitated were collected by filtration, washed with ethyl acetate and then dried to obtain 0.32 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-N,N-dimethyl-3-pyrrolidinamine dihydrochloride as colorless crystals.

reactant | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-N,N-dimethyl-3-pyrrolidinamine | 0.39 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)N(C)C | C19H28N2OS
reactant | hydrogen chloride-ethyl acetate | 3.25 mol/L | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-N,N-dimethyl-3-pyrrolidinamine dihydrochloride | 0.32 g | Cl.Cl.S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)N(C)C | InChI=1S/C19H28N2OS.2ClH/c1-20(2)18-6-10-21(15-18)9-3-11-22-12-7-16-4-5-19-17(14-16)8-13-23-19;;/h4-5,8,13-14,18H,3,6-7,9-12,15H2,1-2H3;2*1H
